US07659264B2
Step E. 3,4-dihydroxyspiro[cyclopentane-1,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
To a mixture of trimethylamine-N-oxide dihydrate (408 mg, 3.67 mmol) and spiro[cyclopent-3-ene-1,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (622 mg, 3.34 mmol) in dichloromethane (115 mL) was added osmium tetroxide (25 uL of 2.5% solution in 2-methyl-2-propanol). After 24 h the reaction mixture was concentrated. The crude product was loaded onto a silica gel chromatography column with a minimal amount of methanol and eluted with a gradient of 5 to 20% methanol:dichloromethane to give the title compound (0.63 g). MS: m/z=221.0 (M+1).

reactant | trimethylamine-N-oxide dihydrate | 3.67 mmol, 408 mg | O.O.C[N+](C)(C)[O-]
reactant | spiro[cyclopent-3-ene-1,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 3.34 mmol, 622 mg | N1C(C2(C=3C1=NC=CC3)CC=CC2)=O | C11H10N2O
solvent | dichloromethane | 115 mL | ClCCl | CH2Cl2
catalyst | osmium tetroxide | 25 uL | [Os](=O)(=O)(=O)=O
product | 3,4-dihydroxyspiro[cyclopentane-1,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.63 g | OC1CC2(C(NC3=NC=CC=C32)=O)CC1O | C11H12N2O3
